US07135475B2
A mixture of sodium hydride (167 mg, 6.96 mmol) in tetrahydrofuran (15 mL) cooled to 0° C. was treated with a solution of 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (1.0 g, 5.8 mmol) in tetrahydrofuran (10 mL). This mixture was stirred at 0° C. for 1 h. It was then treated with methyl iodide (0.54 mL, 8.7 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was cooled to 0° C. and was then quenched with a saturated aqueous ammonium chloride solution and diluted with ethyl acetate (200 mL). This solution was washed with water (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was slurried in 40% ethyl acetate/petroleum ether and cooled in the freezer for 15 min. At this time, the solids were collected by filtration to afford 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (889 mg, 82.8%) as a white solid: 1H NMR (DMSO-d6, 300 MHz) δ8.93 (s, 1H), 3.92 (s, 3H), 3.86 (s, 3H).

reactant | sodium hydride | 6.96 mmol, 167 mg | [H-].[Na+]
reactant | 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 5.8 mmol, 1.0 g | COC(=O)C1=NNC=C1[N+](=O)[O-] | C5H5N3O4
reactant | methyl iodide | 8.7 mmol, 0.54 mL | CI | CH3I
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 889 mg, 82.8% | COC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H7N3O4
